US05006528
A suspension of 47 g of 7-(4-bromobutoxy)-3,4-dihydrocarbostyril, 35 g of sodium iodide with 600 ml of acetonitrile was refluxed for 30 minutes. To this suspension was added 40 g of 1-(2,3-dichlorophenyl)piperazine and 33 ml of triethylamine and the whole mixture was further refluxed for 3 hours. After the solvent was removed by evaporation, the residue thus obtained was dissolved in chloroform, washed with water then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue thus obtained was recrystallized from ethanol twice, to yield 57.1 g of 7-{4-[-4-(2,3-dichlorophenyl)-1-piperazinyl]butoxy}-3,4-dihydrocarbostyril

reactant | 7-(4-bromobutoxy)-3,4-dihydrocarbostyril | 47 g | BrCCCCOC1=CC=C2CCC(NC2=C1)=O | C13H16BrNO2
reactant | sodium iodide | 35 g | [I-].[Na+]
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
reactant | 1-(2,3-dichlorophenyl)piperazine | 40 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
product | 7-{4-[-4-(2,3-dichlorophenyl)-1-piperazinyl]butoxy}-3,4-dihydrocarbostyril | 57.1 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=C1)=O | C23H27Cl2N3O2
